US06194426B1
Ethyl N-(5-thiazolylcarbonyl)pipecolinate is prepared as in Example 1, from 4.4 g of ethyl pipecolinate and 5.25 g of 5-chloroformylthiazole. 7.7 g of ethyl N8(5-thiazolylcarbonyl)pipecolinate are thus obtained in the form of brown oil. (Rf=0.51; thin layer chromatography on silica gel; eluent: 55/45 dichloromethane/ethyl acetate).

reactant | ethyl pipecolinate | 4.4 g | N1C(C(=O)OCC)CCCC1 | C8H15NO2
reactant | 5-chloroformylthiazole | 5.25 g | ClC(=O)C1=CN=CS1 | C4H2ClNOS
product | Ethyl N-(5-thiazolylcarbonyl)pipecolinate | S1C=NC=C1C(=O)N1C(C(=O)OCC)CCCC1 | C12H16N2O3S
